US05733912
16b. 7a-(3-benzyloxy-5-pyridinyl)-hexahydro-1H-pyrrolizine
3-Benzyloxy-5-bromopyridine (1.18 g, 4.47 mmol) was dissolved in Et2O and cooled to -78° C. A solution of 2.5M t-BuLi (5.8 mL, 9.83 mmol) in pentane was added, and the reaction was stirred for 10 minutes. 1,2,3,5,6,7-hexahydropyrrolizinium perchlorate (1.4 g, 6.70 mmol) was added, and the reaction mixture was allowed to stir for 3 hours at -78° C. then allowed to warm to -20° C. and stir for 2 hours. The cold bath was removed, 2N HCl was added, and the mixture was extracted with Et2O. The phases were separated, and the aqueous phase was basified with 15% NaOH and extracted with CH2Cl2 (2×). The CH2Cl2 fractions were combined, dried (MgSO4) and concentrated, and the residue was chromatographed (silica gel; CHCl3 /MeOH, 98:2) to afford a clear oil (286 mg, 22%): mp 45°-49° C. 1H NMR (CDCl3, 300 MHz) δ1.58-1.69 (m, 2H), 1.78-1.83 (m, 2H), 1.89-2.03 (m, 4H), 2.63-2.72 (m, 2H), 3.05-3.18 (m, 2H), 5.12 (s, 2H), 7.31-7.54 (m, 6H), 8.17 (d, J=3.0 Hz, 1H), 8.29 (d, J=1.7 Hz, 1H); MS (CI/NH3) m/z: 295 (M+H)+.

reactant | 3-Benzyloxy-5-bromopyridine | 4.47 mmol, 1.18 g | C(C1=CC=CC=C1)OC=1C=NC=C(C1)Br | C12H10BrNO
reactant | t-BuLi | 9.83 mmol, 2.5M, 5.8 mL | [Li]C(C)(C)C
reactant | 1,2,3,5,6,7-hexahydropyrrolizinium perchlorate | 6.70 mmol, 1.4 g | Cl(=O)(=O)(=O)[O-].C1CC[N+]=2CCCC12
solvent | Et2O | CCOCC | C4H10O
solvent | pentane | CCCCC | C5H12
product | 7a-(3-benzyloxy-5-pyridinyl)-hexahydro-1H-pyrrolizine | 286 mg, 22% | C(C1=CC=CC=C1)OC=1C=NC=C(C1)C12CCCN2CCC1 | C19H22N2O
